### PR TITLE
[Merged by Bors] - feat: a weaker definition of compactly generated spaces

### PR DESCRIPTION
**Pull request by scholzhannah**
This PR defines compactly coherent spaces as a topological space where a set is open iff its intersection with every compact set is open in that compact set. This notion is typically called compactly generated in the literature. There is a different [definition of compactly generated spaces already in mathlib](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Compactness/CompactlyGeneratedSpace.html#CompactlyGeneratedSpace) but that definition is stronger than the one presented here. They do however agree on Hausdorff spaces. See [this wikipedia page](https://en.wikipedia.org/wiki/Compactly_generated_space) for an explanation for the three different definitions of compactly generated spaces used in literature. 

Co-authored-by: Floris van Doorn <fpvdoorn@gmail.com>

---

See also [this discussion on Zulip](https://leanprover.zulipchat.com/#narrow/channel/116395-maths/topic/Compactly.20generated.20spaces) about compactly generated spaces. 

- [x] depends on: #21134

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by scholzhannah** [comment]
I am aware that the naming is not ideal since in the literature "k-space" and "compactly generated space" are used as synonyms. Better ideas are very much welcome. I personally like the name "k-space" because then you can use "k-ification" for the operation of turning an arbitrary topological space into a k-space. I don't think there is a good name for this operation when using "compactly generated space" instead of "k-space".

**Comment by jzxia** [comment]
Hello @scholzhannah, thank you for your work!  Would you mind if I open another PR that depends on this one to prove the exponential law? It states that if $X$, $Y$, and $Z$ are compactly generated Hausdorff spaces, then $kC(Y \times X, Z)$ is homeomorphic to $kC(X, kC(Y, Z))$, where $k$ is your k-ification and $C(X, Y)$ denotes the space of continuous maps from $X$ to $Y$, with the compact-open topology. The exponential law is important for the homotopy theory of CW-complexes. In particular, for the Whitehead theorem, I need this law to prove that every relative CW-complex has the homotopy extension property.

**Comment by scholzhannah** [comment]
> Would you mind if I open another PR that depends on this one to prove the exponential law?

Sure, of course I don't mind!

**Comment by jzxia** [comment]
> open another PR that depends on this one to prove the exponential law

I ended up only proving the exponential law $\text{Hom}(Y \times X, Z) \equiv \text{Hom}(Y, C(X,Z))$ for locally compact $X$ which seems to be adequate for the Whitehead theorem. I might come back when I have the time to refactor and generalize my code, but if you (or anyone else) want to prove the general exponential law, please feel free to do so.

**Comment by urkud** [comment]
@StevenClontz WDYT about naming?
@scholzhannah Note that `RestrictGenTopology` will very soon be renamed to `IsCoherentWith`, see #18397

File: Mathlib/Topology/Compactness/KSpace.lean [hunk 1]
```diff
@@ -0,0 +1,315 @@
...
+  RestrictGenTopology.isOpen_iff restrictGenTopology
+
+/-- A set `A` in a k-space is closed iff for every compact set `K`, the intersection `K ∩ A` is
+closed in `K`.-/
+lemma isClosed_iff (A : Set X) : IsClosed A ↔ ∀ K, IsCompact K → IsClosed (K ↓∩ A) :=
+  RestrictGenTopology.isClosed_iff restrictGenTopology
+
+/-- If every set `A` is open if for every compact `K` the intersection `K ∩ A` is open in `K`,
+then the space is a k-space. -/
+lemma kspace_of_isOpen {X : Type*} [TopologicalSpace X]
```
Comment (urkud) [inline Mathlib/Topology/Compactness/KSpace.lean:68]: Why not `of_isOpen`? The full name will be `KSpace.of_isOpen`, which IMHO makes sense. Also, please reuse `X` from `variable`s.

File: Mathlib/Topology/Compactness/KSpace.lean [hunk 2]
```diff
@@ -0,0 +1,315 @@
...
+  restrictGenTopology := {isOpen_of_forall_induced := h}
+
+/-- If every set `A` is closed if for every compact `K` the intersection `K ∩ A` is closed in `K`,
+then the space is a k-space. -/
+lemma kspace_of_isClosed {X : Type*} [TopologicalSpace X]
+    (h : ∀ (A : Set X), (∀ K, IsCompact K → IsClosed (K ↓∩ A)) → IsClosed A) : KSpace X where
+  restrictGenTopology := RestrictGenTopology.of_isClosed h
+
+/-- Every weakly locally compact space is a k-space.-/
+instance kspace_of_WeaklyLocallyCompactSpace {X : Type*} [TopologicalSpace X]
```
Comment (urkud) [inline Mathlib/Topology/Compactness/KSpace.lean:79]:
```suggestion
instance of_weaklyLocallyCompactSpace
```

File: Mathlib/Topology/Compactness/KSpace.lean [hunk 3]
```diff
@@ -0,0 +1,315 @@
...
+    [WeaklyLocallyCompactSpace X] : KSpace X where
+  restrictGenTopology := RestrictGenTopology.isCompact_of_weaklyLocallyCompact
+
+/-- Every sequential space is a k-space.-/
+instance kspace_of_SequentialSpace {X : Type*} [TopologicalSpace X]
```
Comment (urkud) [inline Mathlib/Topology/Compactness/KSpace.lean:84]:
```suggestion
instance of_sequentialSpace
```

File: Mathlib/Topology/Compactness/KSpace.lean [hunk 4]
```diff
@@ -0,0 +1,315 @@
...
+    [SequentialSpace X] : KSpace X where
+  restrictGenTopology := RestrictGenTopology.isCompact_of_seq
+
+/-- In a k-space `X`, a set `s` is open when `f ⁻¹' s` is open for every continuous map from a
+compact space. -/
+lemma preimage_isOpen.{u} {X : Type u} [TopologicalSpace X] [KSpace X] (s : Set X)
```
Comment (urkud) [inline Mathlib/Topology/Compactness/KSpace.lean:90]: You can use
```
universe u

variable {X : Type u}
```
above, then you can reuse `X` here.

File: Mathlib/Topology/Compactness/KSpace.lean [hunk 5]
```diff
@@ -0,0 +1,315 @@
...
+  intro K hK
+  rw [← Subtype.preimage_coe_inter_self]
+  exact (hs K hK).preimage_val
+
+/-- A type synonym used for the k-ification of a topological space.-/
+def kification (X : Type*) := X
+
+/--For a topological space `X` the k-ification is defined as:
+`A` is open iff for all compact sets `B`, the intersection `A ∩ B` is open in `B`.-/
+instance instkification {X : Type*} [TopologicalSpace X] : TopologicalSpace (kification X) where
```
Comment (urkud) [inline Mathlib/Topology/Compactness/KSpace.lean:138]:
```suggestion
instance kification.instTopologicalSpace : TopologicalSpace (kification X) where
```

File: Mathlib/Topology/Compactness/KSpace.lean [hunk 6]
```diff
@@ -0,0 +1,315 @@
...
+  isOpen_sUnion s hs K hK := by
+    rw [preimage_val_sUnion]
+    apply isOpen_sUnion
+    rintro _ ⟨u, hu, rfl⟩
+    exact hs u hu K hK
+
+/-- A set `A` is the k-ification is open iff for all compact sets `K`,
+the intersection `K ∩ A` is open in `K`.-/
+lemma kification.isOpen_iff {X : Type*} [TopologicalSpace X] {A : Set (kification X)} :
+    IsOpen (X := kification X) A ↔
```
Comment (urkud) [inline Mathlib/Topology/Compactness/KSpace.lean:151]: Please don't abuse defeq `kification X = X`. E.g., `simp` in Lean 4 is very unhappy about this type of abuse. Instead, please define
```
def toKification : X ≃ kification X := Equiv.refl _
```
then use images or preimages under `toKification` and `toKification.symm` to move sets between the spaces. This also applied to the `TopologicalSpace` instance.

**Comment by urkud** [comment]
I left style comments on about half of the file. Please take them into accounts, then remove the `awaiting-author` label.

**Comment by StevenClontz** [comment]
Yeah this ambiguity (without the [weak] Hausdorff assumption) is why there are three distinct variations for "k-space" in π-Base...

https://topology.pi-base.org/properties?filter=K-space

One might say a k1-space (which is what I understand this PR proposes) is "coherent with its compact subspaces".

I'd need to spend more time with this to suggest something clever. But it would be unfortunate to have "compactly generated" and "k-space" represent inequivalent concepts in mathlib..

**Comment by StevenClontz** [comment]
One possible naming convention, should we want to lean in on using the term "coherence" consistently when discussing spaces generated by subspaces.

- `CompactlyCoherentSpace X`: this PR, implementing https://topology.pi-base.org/properties/P000140
- `CompactlyGeneratedSpace X`: current property in mathlib implementing https://topology.pi-base.org/properties/P000141 (I don't love this as such spaces are really generated by *continuous maps* from *Hausdorff* compacta - I'd rather this be `KSpace X` actually, but it's certainly out of scope for this PR to make such a change, so sticking with status quo makes sense to me.)
- `T2CompactlyCoherentSpace X`: possible future contribution implementing https://topology.pi-base.org/properties/P000142

Or I could see renaming all as `K1Space X`, `K2Space X`, `K3Space X` perhaps. But as I said, it will be surprising to have inequivalent properties in mathlib named `KSpace X` and `CompactlyGeneratedSpace X`.

**Comment by urkud** [comment]
@scholzhannah WDYT about the naming proposed by @StevenClontz ?

**Comment by scholzhannah** [comment]
Hm, I am not sure actually. I think for myself I would like `K1Space`, `K2Space` and `K3Space` because their similar names make it clear how closely the concepts are related. Additionally,  I could then call what is now the `kification` the `k1ification` which would still make sense. But for mathlib I think that soultion obscures the concepts behind non-standard naming, so I am not sure that this is the way to go. `CompactlyCoherentSpace`, `CompactlyGeneratedSpace` and `T2CompactlyCoherentSpace` feel more mathlib style to me anyways.

**Comment by StevenClontz** [comment]
Yeah, the $k_n$ scheme was something we more or less made up for pi-Base. It *might* end up in the literature if a preprint or two of mine are eventually accepted, but it's certainly not standard. I think Coherent/Generated is the more semantic and mathlib-y way to go as well.

**Comment by scholzhannah** [comment]
Okay, then I will get on renaming `KSpace` to `CompactlyCoherentSpace` soon.

**Comment by ADedecker** [comment]
I had noticed this a few weeks ago but didn't have time to check it out. I'm also interested in this definition for application to proper actions, where the current "Compactly Generated" in Mathlib forces slightly stronger assumption (IIRC). I was a bit sad about "losing" the naming race to category theorists, but I love `CompactlyCoherentSpace`, so thank you for adding it and thanks to @StevenClontz for figuring out the name!

**Comment by scholzhannah** [comment]
I have renamed `KSpace` to `CompactlyCoherentSpace`. Additionally, I renamed `kification` to `CompactCoherentification` and the map `toKification` to `toCompactlyCoherent` for now. I am not sure if those are good names. Especially because I am not aware of the naming conventions for type synonyms. I have chosen `CompactCoherentification` because from what I understand the "coherentification" is a process that can be done with any family of subsets of a topological space. (So in my mind the word "coherentification" is somewhat of a necessary evil.) And this is just the compact version of that.

**Comment by ADedecker** [comment]
Could you update the PR description to the new name ?

File: Mathlib/Topology/Compactness/CompactlyCoherentSpace.lean [hunk 7]
```diff
@@ -0,0 +1,336 @@
...
+    CompactlyCoherentSpace X where
+  isCoherentWith := IsCoherentWith.of_isClosed h
+
+/-- Every weakly locally compact space is a compactly coherent space. -/
+instance of_weaklyLocallyCompactSpace [WeaklyLocallyCompactSpace X] : CompactlyCoherentSpace X where
+  isCoherentWith := IsCoherentWith.isCompact_of_weaklyLocallyCompact
+
+/-- Every sequential space is a compactly coherent space. -/
+instance of_sequentialSpace [SequentialSpace X] : CompactlyCoherentSpace X where
+  isCoherentWith := IsCoherentWith.isCompact_of_seq
```
Comment (ADedecker) [inline Mathlib/Topology/Compactness/CompactlyCoherentSpace.lean:94]: Could you instead deprecate the existing results? Or, if that is too much work, at least add a TODO somewhere saying that every lemma using `IsCoherentWith` with compact subspaces should b updated to use `CompactlyCoherentSpace`?

File: Mathlib/Topology/Compactness/CompactlyCoherentSpace.lean [hunk 8]
```diff
@@ -0,0 +1,336 @@
...
+
+namespace CompactlyCoherentSpace
+
+universe u
+
+variable {X : Type u} [TopologicalSpace X]
+
+/-- A set `A` in a compactly coherent space is open iff for every compact set `K`, the intersection
+`K ∩ A` is open in `K`. -/
+lemma isOpen_iff [CompactlyCoherentSpace X] (A : Set X) :
```
Comment (ADedecker) [inline Mathlib/Topology/Compactness/CompactlyCoherentSpace.lean:66]: I think `A` should be made implicit here, for consistency with the rest of the library.

File: Mathlib/Topology/Compactness/CompactlyCoherentSpace.lean [hunk 9]
```diff
@@ -0,0 +1,336 @@
...
+/-- In a compactly coherent space `X`, a set `s` is open when `f ⁻¹' s` is open for every continuous
+map from a compact space. -/
+lemma preimage_isOpen [CompactlyCoherentSpace X] (s : Set X)
+    (hs : (∀ (K : Type u) [TopologicalSpace K],
+      [CompactSpace K] → ∀ (f : K → X), Continuous f → IsOpen (f ⁻¹' s))) :
+    IsOpen s := by
+  rw [isOpen_iff]
+  intro K hK
+  let _ : CompactSpace (Elem K) := isCompact_iff_compactSpace.mp hK
+  exact hs (Elem K) Subtype.val continuous_subtype_val
```
Comment (ADedecker) [inline Mathlib/Topology/Compactness/CompactlyCoherentSpace.lean:105]: I would upgrade this to an iff:
```suggestion
lemma isOpen_iff_forall_compactSpace [CompactlyCoherentSpace X] (s : Set X) : 
    IsOpen s ↔ 
      ∀ (K : Type u) [TopologicalSpace K] [CompactSpace K], 
      ∀ (f : K → X), Continuous f → IsOpen (f ⁻¹' s) := by
  refine ⟨fun hs _ _ _ _ hf ↦ hs.preimage hf, fun hs ↦ isOpen_iff _ |>.mpr ?_⟩
  intro K hK
  let _ : CompactSpace K := isCompact_iff_compactSpace.mp hK
  exact hs K Subtype.val continuous_subtype_val
```
(We don't usually spell out `Elem`, instead we let the coercion mechanism do its magic)

File: Mathlib/Topology/Compactness/CompactlyCoherentSpace.lean [hunk 10]
```diff
@@ -0,0 +1,336 @@
...
+      [CompactSpace K] → ∀ (f : K → X), Continuous f → IsOpen (f ⁻¹' s)) → IsOpen s) :
+    CompactlyCoherentSpace X where
+  isCoherentWith := {
+    isOpen_of_forall_induced := by
+      intro s hs
+      apply h s
+      intro K _ _ f hf
+      change IsOpen ((fun x ↦ ⟨f x, mem_image_of_mem f trivial⟩) ⁻¹' ((f '' univ) ↓∩ s))
+      apply (hf.subtype_mk fun x ↦ mem_image_of_mem f trivial).isOpen_preimage
+      exact hs (f '' univ) (CompactSpace.isCompact_univ.image hf)}
```
Comment (ADedecker) [inline Mathlib/Topology/Compactness/CompactlyCoherentSpace.lean:119]:
```suggestion
lemma of_isOpen_forall_compactSpace (h : ∀ (s : Set X), (∀ (K : Type u) [TopologicalSpace K],
      [CompactSpace K] → ∀ (f : K → X), Continuous f → IsOpen (f ⁻¹' s)) → IsOpen s) :
    CompactlyCoherentSpace X := by
  refine of_isOpen fun A hA ↦ h A fun K _ _ f hf ↦ ?_
  specialize hA (range f) (isCompact_range hf)
  have := hA.preimage (hf.codRestrict mem_range_self)
  rwa [← preimage_comp] at this
```
(Apart from the golf, I'm also suggesting another name, feel free to disagree)

**Review by ADedecker — COMMENTED** [review]
(More comments incoming)

**Comment by scholzhannah** [comment]
> With the comments above, I believe the first part of the file is ready. I played a bit with the k-ification section to simplify it, and I ended up pushing to branch "AD_kification".

Great, thanks a lot! I'll make a dependent PR for the second part of the file.

File: Mathlib/Topology/UniformSpace/CompactConvergence.lean [hunk 11]
```diff
@@ -432,10 +432,12 @@ lemma completeSpace_of_isCoherentWith (h : IsCoherentWith {K : Set α | IsCompac
...
 
 instance instCompleteSpaceOfWeaklyLocallyCompactSpace [WeaklyLocallyCompactSpace α] :
-    CompleteSpace C(α, β) := completeSpace_of_isCoherentWith .isCompact_of_weaklyLocallyCompact
+    CompleteSpace C(α, β) :=
+  completeSpace_of_isCoherentWith CompactlyCoherentSpace.of_weaklyLocallyCompactSpace.isCoherentWith
 
 instance instCompleteSpaceOfSequentialSpace [SequentialSpace α] :
-    CompleteSpace C(α, β) := completeSpace_of_isCoherentWith .isCompact_of_seq
+    CompleteSpace C(α, β) :=
+  completeSpace_of_isCoherentWith CompactlyCoherentSpace.of_sequentialSpace.isCoherentWith
```
Comment (ADedecker) [inline Mathlib/Topology/UniformSpace/CompactConvergence.lean]: Could you instead upgrade `completeSpace_of_isCoherentWith` to an instance assuming `CompactlyCoherentSpace`? Then this two cases should just be `inferInstance`, and I'd say you can remove them.

**Review by ADedecker — APPROVED** [review]
Thanks a lot, and sorry for the wait!

bors d+
